US07842688B2
b) Benzyl 3-[4-chlorocarbonyl-3-(3-methoxypropoxy)benzyloxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
The solution of 0.80 g of benzyl 3-[4-carboxy-3-(3-methoxypropoxy)benzyloxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate in 15 ml of dichloromethane is cooled to 0° C. with stirring and admixed successively with 0.190 ml of oxalyl chloride and 0.008 ml of N,N-dimethylformamide. The reaction mixture is stirred at 0° C. over 6 hours. The reaction mixture is subsequently concentrated by evaporation at room temperature to obtain the crude title compound.

reactant | benzyl 3-[4-carboxy-3-(3-methoxypropoxy)benzyloxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.80 g | C(=O)(O)C1=C(C=C(COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OCC2=CC=CC=C2)C=C1)OCCCOC | C42H49NO10
reactant | oxalyl chloride | 0.190 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 0.008 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | Benzyl 3-[4-chlorocarbonyl-3-(3-methoxypropoxy)benzyloxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | ClC(=O)C1=C(C=C(COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OCC2=CC=CC=C2)C=C1)OCCCOC | C42H48ClNO9
